US07691892B2
q) 3-(5-[(1-[2-(3-Chloro-phenyl)-2H-tetrazol-5-yl]-ethoxy}-4-methyl-4H-[1,2,4]triazol-3-yl)-pyridine
The title compound is prepared from 1-[2-(3-chloro-phenyl)-2H-tetrazol-5-yl-ethanol (1 mmol), sodium hydride (1.5 mmol), and 3-(5-methanesulfonyl-4-methyl-4H-[1,2,4]triazol-3-yl)-pyridine (1.25 mmol).

reactant | 2-(3-chloro-phenyl)-2H-tetrazol-5-yl-ethanol | 1 mmol | ClC=1C=C(C=CC1)N1N=C(N=N1)C(C)O | C9H9ClN4O
reactant | sodium hydride | 1.5 mmol | [H-].[Na+]
reactant | 3-(5-methanesulfonyl-4-methyl-4H-[1,2,4]triazol-3-yl)-pyridine | 1.25 mmol | CS(=O)(=O)C=1N(C(=NN1)C=1C=NC=CC1)C | C9H10N4O2S
product | 5-[(1-[2-(3-Chloro-phenyl)-2H-tetrazol-5-yl]-ethoxy}-4-methyl-4H-[1,2,4]triazol-3-yl)-pyridine | ClC=1C=C(C=CC1)N1N=C(N=N1)C(C)OC=1N(C(=NN1)C=1C=CC=NC1)C | C17H15ClN8O
